2175-04-20 22:03:00 Physician Attending Progress Note
Chief Complaint: respiratory failure requiring BIPAP
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   68M long hospital  tunneled line placed today, given fentanyl and
   developed hypercarbic respiratory failure. Placed on BIPAP and
   stabilized. Given narcan x 2 which improved alertness and respiratory
   drive. Remains sleepy.  Has required IVF for hypotension.
   History obtained from housestaff
   Patient unable to provide history: on BIPAP
   Allergies:
   Dicloxacillin
   Rash;
   Mercaptopurine
   Neutropenia; Th
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Crohn's
   chronic aspiration
   ESRD
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   unresponsive
   Flowsheet Data as of  [**2175-4-20**] 10:03 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 84 (84 - 92) bpm
   BP: 100/48(61) {100/48(61) - 100/48(61)} mmHg
   RR: 25 (17 - 25) insp/min
   SpO2: 99%
             Total In:
             87 mL
   PO:
             TF:
   IVF:
   9 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                     87 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 572 (572 - 634) mL
   PS : 10 cmH2O
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: ////
   Ve: 8.5 L/min
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: surgical pupils
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft
   Extremities: Right: Absent, Left: Absent, edema, fistula in arm
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   106
   27
   29
        [image002.jpg]
   Fluid analysis / Other labs: 7.24/76/87
   Imaging: CXR NG tube, left SC HD cath, slightly improved infiltrates
   Assessment and Plan
   Hypercarbic respiratory failure, somnolence  - likely a consequence of
   fentanyl, will continue to support with BIPAP until he awakens
   malnutrition - receiving TPN
   infiltrates - some improvement in opacities, continue abx for now,
   repeat b-glucan tomorrow
   ESRD
 continue three times a week HD
   Crohn's - no active issues beyond nutrition
   ICU Care
   Nutrition:
   TPN without Lipids - [**2175-4-20**] 08:50 PM 83.[**Telephone/Fax (5) 2407**] mL/hour
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  discussed with wife
   [**Name (NI) 156**] status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2175-04-21 07:04:00 Physician Resident Progress Note
Chief Complaint: altered mental status, hypercarbia
   24 Hour Events:
 TUNNELED (HICKMAN) LINE - START [**2175-4-20**] 08:45 PM
 NON-INVASIVE VENTILATION - START [**2175-4-20**] 09:00 PM
 NON-INVASIVE VENTILATION - STOP [**2175-4-21**] 01:45 AM
   Overnight, pt had difficult time tolerating [**Year (4 digits) **].
   7PM ABG on floor, 7.24/76/87 and MICU eval intitiated
   Pt in ICU and started [**Year (4 digits) **] at 8:45PM
   11PM 7.22/79/59 -> [**Year (4 digits) **] mask changed to larger size to help with seal
   1AM-> Pt very awake, alert, pulling off mask several times. Mental
   status at baseline. ABG at this time 7.22/84/65. Pt felt very strongly
   that he wanted a break from the [**Year (4 digits) **]. RT suctioned copious amounts of
   tan, thick secretions, which were sent for cx
   3-4AM-> repeat ABG 7.24/75/92. Pt still awake and alert, explained
   persistant acidosis and pt agrees to try [**Year (4 digits) **] again
   5AM-> resume [**Year (4 digits) **], but pt still pulling at mask frequently and
   breaking seal. He is alert, mentating well.
   Allergies:
   Dicloxacillin
   Rash;
   Mercaptopurine
   Neutropenia; Th
   Last dose of Antibiotics:
   Caspofungin - [**2175-4-20**] 10:31 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2175-4-20**] 10:30 PM
   Other medications:
   Mirtazapine
   Levothyroxine
   Albuterol
   Heparin
   Meropenem day 11
   Micafungin day 7
   Testosterone patch
   NS nasal spray
   Flowsheet Data as of  [**2175-4-21**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.7
C (98.1
   HR: 92 (81 - 93) bpm
   BP: 116/60(73) {70/38(46) - 118/66(78)} mmHg
   RR: 25 (17 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    646 mL
                                                                    627 mL
   PO:
             TF:
   IVF:
                                                                    382 mL
                                                                     67 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    646 mL
                                                                    627 mL
   Respiratory support
   O2 Delivery Device: [**Year (4 digits) **] mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 323 (323 - 634) mL
   PS : 15 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 21 cmH2O
   SpO2: 99%
   ABG: 7.24/75/91.[**Numeric Identifier 253**]//1
   Ve: 11.5 L/min
   PaO2 / FiO2: 184
   Physical Examination
   GEN: pleasant, alert, oriented, asking appropriate questions about what
   is going on
   HEENT: MM moist, R pupil surgical, L pupil constricts
   COR: RRR, no murmur appreciable
   PULM: coarse crackles at bases L>R, no wheezes
   ABD: soft, NT/ND
   EXT: no edema, warm
   Labs / Radiology
   174 K/uL
   8.8 g/dL
   92
   3.7
   29
   4.9
   35
   110
   144
   29.3 %
   5.3 K/uL
        [image002.jpg]
                             [**2175-4-20**]  11:13 PM
                             [**2175-4-21**]  01:19 AM
                             [**2175-4-21**]  02:51 AM
                             [**2175-4-21**]  04:28 AM
   WBC
   5.3
   Hct
   29.3
   Plt
   174
   TCO2
   34
   36
   34
   Other labs: Lactic Acid:0.9 mmol/L
   Imaging: CXR:
   Microbiology: [**4-21**] Sputum: sent this AM
 poor specimen
   Assessment and Plan
 RESPIRATORY FAILURE, CHRONIC
   # Hypercarbic resp failure: This is most likely in setting of narcotics
   and decreased respiratory drive. He has received 0.4 X 3 IV narcan with
   improvement of sedation. Overnight, his mental status has improved to
   baseline; however, he is still retaining CO2. Now refusing [**Month/Day (4) **].
   - follow ABGs
   .
   # Hypoxic respiratory failure: Oxygen requirement stable at 5 L 95%.
   Secondary to possible pulmonary fungal infection, health care acquired
   and aspiration pneumonia. Patient has been afebrile and hemdynamically
   stable.
   - Today is Meropenem 500 IV Q HD day 12 of 14 for health care acquired
   - Today is Micafungin Day 7 for fungal coverage
   - Check beta-glucan on day 7 Micafungin
   - continues to have fluid removal with HD
   - repeat sputum cytology, quantify Eos
   - Appreciate ID input
   .
   # Malnutrition: Pt cachetic on examination and has been made NPO due to
   severe aspiration. Started testosterone secondary to low level.
   - continue TPN via tunnelled line
   - hold dobhoff tube feeds while needing [**Month/Day (4) **]
   - appreciate nutrition reqs
   .
   #. ESRD on HD: Pt currently anuric, undergoes HD MWF.
   - appreciate renal recs
   .
   # Toe ulcer: Erythematous with no evidence of cellulitis. Meropenem
   provides adequate coverage, blood cultures have currently been negative
   since.
   - Continue to monitor skin
   .
   # Crohns disease: Pt is s/p bowel resections and has short gut.
   - replete lytes
   - will keep head of bed elevation for severe reflux
   - not currently on immune suppressants
   .
   # Anemia: baseline Hct 26-32, current Hct 28. Secondary to anemia of
   chronic disease.
   .
   #. Hypothyroidism: Will continue pt on IV levothyroxine given NPO
   status.
   .
   FEN: replete lytes prn
   .
   PPX: SQ heparin, fall/aspiration precautions, bowel regimen prn
   .
   ACCESS: PIV's, left IJ, Dobhoff
   .
   CODE STATUS: DNR/DNI
   .
   EMERGENCY CONTACT: [**First Name8 (NamePattern2) **] [**Known lastname 6029**] [**Telephone/Fax (1) 6030**] cell
   ICU Care
   Nutrition: Tube feeds via Dobhoff; TPN without Lipids - [**2175-4-20**]
   08:50 PM 83.[**Telephone/Fax (5) 2407**] mL/hour
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2175-4-20**] 08:45 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: ICU

2175-04-21 08:42:00 Physician Attending Progress Note
Chief Complaint: respiratory failure requiring BIPAP
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   68M long hospital  tunneled line placed today, given fentanyl and
   developed hypercarbic respiratory failure. Placed on BIPAP and
   stabilized. Given narcan x 2 which improved alertness and respiratory
   drive. Remains sleepy.  Has required IVF for hypotension.
   24 Hour Events:
   No events has come off Bipap MS much improved but still acidotic on
   [** **].
 TUNNELED (HICKMAN) LINE - START [**2175-4-20**] 08:45 PM
 NON-INVASIVE VENTILATION - START [**2175-4-20**] 09:00 PM
 NON-INVASIVE VENTILATION - STOP [**2175-4-21**] 01:45 AM
   Allergies:
   Dicloxacillin
   Rash;
   Mercaptopurine
   Neutropenia; Th
   Last dose of Antibiotics:
   Caspofungin - [**2175-4-20**] 10:31 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2175-4-20**] 10:30 PM
   Other medications:
   mertazapine
   levothyroxine
   albuterol nebs
   hepSQ 5K tid
   PPI
   Day #11 meropenem 500mg Q24 HD
   Day #7   Micafungin 100mg Qday
   NaCl
   Changes to medical and family history:
   No changes
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2175-4-21**] 08:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.7
C (98.1
   HR: 92 (81 - 93) bpm
   BP: 116/60(73) {70/38(46) - 118/66(78)} mmHg
   RR: 25 (17 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    646 mL
                                                                    810 mL
   PO:
             TF:
   IVF:
                                                                    382 mL
                                                                     87 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    646 mL
                                                                    810 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 323 (323 - 634) mL
   PS : 15 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 21 cmH2O
   SpO2: 99%
   [**Year (4 digits) **]: 7.24/75/91.[**Numeric Identifier 253**]/29/1
   Ve: 11.5 L/min
   PaO2 / FiO2: 184
   Physical Examination
   Gen: pleasant, alert, oriented, asking appropriate questions about what
   is going on
   HEENT: MM moist, R pupil surgical, Lpupil constricts
   Heart: RRR, no murmur appreciable
   Pulm: coarse crackles at bases L>R, no wheezes
   ABD: soft, NT/ND
   EXT: no edema, warm
   Labs / Radiology: Chest-
   8.8 g/dL
   174 K/uL
   92 mg/dL
   3.7 mg/dL
   29 mEq/L
   4.9 mEq/L
   35 mg/dL
   110 mEq/L
   144 mEq/L
   29.3 %
   5.3 K/uL
        [image002.jpg]
                             [**2175-4-20**]  11:13 PM
                             [**2175-4-21**]  01:19 AM
                             [**2175-4-21**]  02:51 AM
                             [**2175-4-21**]  04:28 AM
   WBC
   5.3
   Hct
   29.3
   Plt
   174
   Cr
   3.7
   TCO2
   34
   36
   34
   Glucose
   92
   Other labs: Lactic Acid:0.9 mmol/L, Ca++:8.8 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.9 mg/dL
   Micro
   Cytology-first suspicious for squamous cell ca
   Cytology-Repeat x 2 negative one with Eosinophils
   beta glucan-+ x 2 repeat P
   Galactomannan-Negative
   Assessment and Plan
   Hypercarbic respiratory failure and somnolence
    - likely a consequence of fentanyl and percocets (though only fent
   12.5 mcg and 2 percs)
   - will continue to support with BIPAP until gas improves.
   -  MS much improved
   Severe malnutrition
    - receiving TPN
   Pulmonary infiltrates
   - improvement in consolidation by CXR which does support a possible
   infectious process such as fungal or bacterial.
   - some improvement in Oxygenation but overall X-rays do  appear
   improved.
   - continue abx for now, repeat b-glucan tomorrow
   -Will repeat Cytology and Sputum Eosinophils (will ask path if copious
   eos or scant)
   -Will continue meropenem Day [**10-28**], [**Last Name (LF) 6238**], [**First Name3 (LF) 124**] follow Beta glucan
   -Will consider steroids if + sputum eos + and if his x-rays start to
   worsen in the setting of decreased sputum production.
   ESRD
 continue three times a week HD
   Crohn's
   - no active issues beyond nutrition
   ICU Care
   Nutrition: Tube feeds (held while on BiPaP) Post pyloric tube.
   TPN without Lipids - [**2175-4-20**] 08:50 PM 83.[**Telephone/Fax (5) 2407**] mL/hour
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2175-4-20**] 08:45 PM
   Prophylaxis:
   DVT:  Heprin
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition : Floor once stable MS [**First Name (Titles) **] [**Last Name (Titles) **] improved.
   Patient is critically ill. Total time spent: 35 minutes

2175-04-23 07:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**4-22**]
   - mental status normal
   - unable to get ABG, but VBG w/ pCO2 62, decided not to push Bipap if
   mental status okay
   - this AM 3 AM: 7.26/77/54
   Allergies:
   Dicloxacillin
   Rash;
   Mercaptopurine
   Neutropenia; Th
   Last dose of Antibiotics:
   Meropenem - [**2175-4-22**] 02:00 PM
   Micafungin - [**2175-4-22**] 08:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2175-4-22**] 10:14 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2175-4-23**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.7
C (96.2
   HR: 79 (77 - 98) bpm
   BP: 109/56(69) {73/41(53) - 130/65(79)} mmHg
   RR: 28 (18 - 34) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
                  Total In:
                                                                  1,686 mL
                                                                    602 mL
   PO:
                  TF:
   IVF:
                                                                    195 mL
   Blood products:
                                                                     50 mL
   Total out:
                                                                  3,500 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,814 mL
                                                                    602 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 408 (408 - 408) mL
   PS : 8 cmH2O
   RR (Spontaneous): 33
   PEEP: 5 cmH2O
   FiO2: 0%
   PIP: 15 cmH2O
   SpO2: 98%
   ABG: ///31/
   Ve: 13 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   181 K/uL
   9.0 g/dL
   111 mg/dL
   3.6 mg/dL
   31 mEq/L
   3.7 mEq/L
   34 mg/dL
   106 mEq/L
   142 mEq/L
   29.6 %
   5.1 K/uL
        [image002.jpg]
                             [**2175-4-20**]  11:13 PM
                             [**2175-4-21**]  01:19 AM
                             [**2175-4-21**]  02:51 AM
                             [**2175-4-21**]  04:28 AM
                             [**2175-4-21**]  05:08 PM
                             [**2175-4-22**]  04:22 AM
                             [**2175-4-23**]  03:36 AM
   WBC
   5.3
   4.7
   5.1
   Hct
   29.3
   30.9
   29.6
   Plt
   174
   207
   181
   Cr
   3.7
   4.9
   3.6
   TCO2
   34
   36
   34
   30
   Glucose
   92
   89
   111
   Other labs: PT / PTT / INR:15.6/41.8/1.4, Lactic Acid:0.9 mmol/L,
   Ca++:9.0 mg/dL, Mg++:2.2 mg/dL, PO4:3.3 mg/dL
   Imaging: CXR:
   Microbiology: B-glucan: Pending
   Galactomannan: Pending
   Assessment and Plan
 RESPIRATORY FAILURE, CHRONIC
    Hypercarbic resp failure: This is most likely in setting of narcotics
   and decreased respiratory drive. He has received 0.4 X 3 IV narcan with
   improvement of sedation. Overnight, his mental status has improved to
   baseline; however, he is still retaining CO2. Alternating with refusing
   and trying BiPAP.
   - follow ABGs, if Coo2>60 try  BiPAP
   - try haldol for anxiety and intolerant of BiPap
   - avoid opiates
   .
   # Hypoxic respiratory failure: Oxygen requirement stable at 5 L 95%.
   Secondary to possible pulmonary fungal infection, health care acquired
   and aspiration pneumonia. Patient has been afebrile and hemodynamically
   stable.   Repeat Beta-glucan pending.
   - Today is Meropenem 500 IV Q HD day 14 of 14 for health care acquired
   - Today is Micafungin Day 9 for fungal coverage
   - f/u beta-glucan
   - continues to have fluid removal with HD
   - repeat sputum cytology, quantify Eos
   - Appreciate ID input
   .
   # Malnutrition: Pt cachetic on examination and has been made NPO due to
   severe aspiration. Started testosterone secondary to low level.
   - continue TPN via tunnelled line
   - hold tube feeds for ? Bipap
   - appreciate nutrition reccs
   .
   #. ESRD on HD: Pt currently anuric, undergoes HD MWF.
   - appreciate renal recs
   .
   # Toe ulcer: Erythematous with no evidence of cellulitis. Meropenem
   provides adequate coverage, blood cultures have currently been negative
   since.
   - Continue to monitor skin
   .
   # Crohns disease: Pt is s/p bowel resections and has short gut.
   - replete lytes
   - will keep head of bed elevation for severe reflux
   - not currently on immune suppressants
   .
   # Anemia: baseline Hct 26-32, current Hct 28. Secondary to anemia of
   chronic disease.
   .
   #. Hypothyroidism: Will continue pt on IV levothyroxine given NPO
   status.
   .
   FEN: replete lytes prn
   .
   PPX: SQ heparin, PPI, fall/aspiration precautions, bowel regimen prn
   .
   ACCESS: tunneled hickman for abx and TPN, Dobhoff
   .
   CODE STATUS: DNR/DNI
   .
   EMERGENCY CONTACT: [**First Name8 (NamePattern2) **] [**Known lastname 6029**] [**Telephone/Fax (1) 6030**] cell
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2175-4-22**] 06:00 PM 83 mL/hour
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2175-4-20**] 08:45 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2175-04-23 11:27:00 Physician Attending Progress Note
Chief Complaint: hypercapnea.
   68 y/o M hx Crohns dz with esophageal involvement, numerous bowel
   resections and short gut syndrome with severe pulmonary disease
   including chronic aspiration leading to bronchiectasis, hx necrotizing
   pneumonia.
   Initially presented to the MICU with severe malnutrition, bilateral
   pulmonary infltrates and worsening hypoxia.  Treated for HAP and got
   empiric micafungin,. but suspicion was there was a more chronic process
   such as boop, malignancy, chronic aspiration or atypical infection.
   Sputum  returned with rare very atypical squamous cells concerning for
   squamous cell CA and with Eos.
   He went to the floor but returned to the MICU [**4-20**] after receiving
   fentanyl during IR for a line placement  Transferred back to ICU for
   BiPAP.  His MICU stay has been repeat bouts of hypercapnea requiring
   BIPAP
   24 Hour Events:
   VBG this AM was notable for pCO2=72.  Offered BIPAP but refused.
   However pCO2 improved to 55 after he aroused more fully.
   Allergies:
   Dicloxacillin
   Rash;
   Mercaptopurine
   Neutropenia; Th
   Last dose of Antibiotics:
   Meropenem - [**2175-4-22**] 02:00 PM
   Micafungin - [**2175-4-22**] 08:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2175-4-23**] 08:28 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2175-4-23**] 11:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.6
C (96
   HR: 77 (77 - 98) bpm
   BP: 120/59(74) {73/45(53) - 130/60(75)} mmHg
   RR: 29 (16 - 34) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,686 mL
                                                                    973 mL
   PO:
             TF:
   IVF:
                                                                    195 mL
                                                                     29 mL
   Blood products:
                                                                     50 mL
   Total out:
                                                                  3,500 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,814 mL
                                                                    973 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///31/
   Physical Examination
   Gen   Cachectic. NAD
   CV     Regular S1 S2 no m/r/g
   LUNGS  Distant bs bl.
   ABD   Soft, NT
   EXT No c/c/e
   Labs / Radiology
   9.0 g/dL
   181 K/uL
   111 mg/dL
   3.6 mg/dL
   31 mEq/L
   3.7 mEq/L
   34 mg/dL
   106 mEq/L
   142 mEq/L
   29.6 %
   5.1 K/uL
        [image002.jpg]
                             [**2175-4-20**]  11:13 PM
                             [**2175-4-21**]  01:19 AM
                             [**2175-4-21**]  02:51 AM
                             [**2175-4-21**]  04:28 AM
                             [**2175-4-21**]  05:08 PM
                             [**2175-4-22**]  04:22 AM
                             [**2175-4-23**]  03:36 AM
   WBC
   5.3
   4.7
   5.1
   Hct
   29.3
   30.9
   29.6
   Plt
   174
   207
   181
   Cr
   3.7
   4.9
   3.6
   TCO2
   34
   36
   34
   30
   Glucose
   92
   89
   111
   Other labs: PT / PTT / INR:15.6/41.8/1.4, Lactic Acid:0.9 mmol/L,
   Ca++:9.0 mg/dL, Mg++:2.2 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   #Hypercarbic resp failure: This is most likely in setting of narcotics
   and decreased respiratory drive. He has poor neuromuscular reserve in
   addition.
   - tonight try haldol2.5 mg x 1 for anxiety to help him tolerate BIPAP
   - avoid opiates
   .
   # Hypoxic respiratory failure: Oxygen requirement stable at 5 L 95%.
   Secondary to possible pulmonary fungal infection, health care acquired
   and aspiration pneumonia. Patient has been afebrile and hemodynamically
   stable.   Repeat Beta-glucan pending.
   - Today is Meropenem 500 IV Q HD day 14 of 14 for health care acquired
   PNA
   - Today is Micafungin Day 9 for fungal coverage
   - f/u beta-glucan
   - continues to have fluid removal with HD
   - repeat sputum cytology, quantify Eos
   - Appreciate ID input
   .
   # Malnutrition: Pt cachetic on examination and has been made NPO due to
   severe aspiration. Started testosterone secondary to low level.
   - continue TPN via tunnelled line
   - hold tube feeds for ? Bipap
   - appreciate nutrition reccs
   .
   #. ESRD on HD: Pt currently anuric, undergoes HD MWF.
   - appreciate renal recs
   .
   # Toe ulcer: Erythematous with no evidence of cellulitis. Meropenem
   provides adequate coverage, blood cultures have currently been negative
   since.
   - Continue to monitor skin
   .
   # Crohns disease: Pt is s/p bowel resections and has short gut.
   - replete lytes
   - will keep head of bed elevation for severe reflux
   - not currently on immune suppressants
   .
   # Anemia: baseline Hct 26-32, current Hct 28. Secondary to anemia of
   chronic disease.
   .
   #. Hypothyroidism: Will continue pt on IV levothyroxine given NPO
   status.
   .
   FEN: replete lytes prn
   .
   PPX: SQ heparin, PPI, fall/aspiration precautions, bowel regimen prn
   .
   ACCESS: tunneled hickman for abx and TPN, Dobhoff
   .
   CODE STATUS: DNR/DNI
   .
   EMERGENCY CONTACT: [**First Name8 (NamePattern2) **] [**Known lastname 6029**] [**Telephone/Fax (1) 6030**] cell
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2175-4-22**] 06:00 PM 83 mL/hour
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2175-4-20**] 08:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition : MICU
   Total time spent:  30 minutes

2175-04-24 07:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**4-23**]
   - extensive family and pt discussion re: goals of care. Attempted to
   convey progressive worsening and his poor prognosis. Pt reviewed his
   CTs and CXRs and wishes to speak to Dr. [**Last Name (STitle) 712**] on Monday. dr. [**Last Name (STitle) **] was
   emailed
   - did not check further ABGs as he had very clear mental status
   -- lost HD graft function this morning, renal and transplant surgery
   aware, will need intubation for procedure
   -- holding TFs as pt likely to get significantly fluid overloaded again
   without HD today
   Allergies:
   Dicloxacillin
   Rash;
   Mercaptopurine
   Neutropenia; Th
   Last dose of Antibiotics:
   Meropenem - [**2175-4-23**] 02:06 PM
   Micafungin - [**2175-4-23**] 10:58 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2175-4-23**] 10:25 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2175-4-24**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.6
C (96.1
   HR: 89 (77 - 94) bpm
   BP: 104/45(60) {102/45(57) - 133/65(81)} mmHg
   RR: 21 (20 - 35) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,649 mL
                                                                    678 mL
   PO:
             TF:
   IVF:
                                                                    355 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,649 mL
                                                                    678 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 99%
   ABG: ///29/
   Physical Examination
   GEN: tired appearing, A&Ox3
   HEENT: PERRL, MM dry
   COR: RRR, no murmurs
   LUNGS: dry crackles bilaterally
   ABD: soft, NT, ND
   EXT: no edema
   Labs / Radiology
   212 K/uL
   9.4 g/dL
   112 mg/dL
   5.0 mg/dL
   29 mEq/L
   3.8 mEq/L
   49 mg/dL
   107 mEq/L
   143 mEq/L
   30.9 %
   5.1 K/uL
        [image002.jpg]
                             [**2175-4-20**]  11:13 PM
                             [**2175-4-21**]  01:19 AM
                             [**2175-4-21**]  02:51 AM
                             [**2175-4-21**]  04:28 AM
                             [**2175-4-21**]  05:08 PM
                             [**2175-4-22**]  04:22 AM
                             [**2175-4-23**]  03:36 AM
                             [**2175-4-24**]  03:47 AM
   WBC
   5.3
   4.7
   5.1
   5.1
   Hct
   29.3
   30.9
   29.6
   30.9
   Plt
   174
   207
   181
   212
   Cr
   3.7
   4.9
   3.6
   5.0
   TCO2
   34
   36
   34
   30
   Glucose
   92
   89
   111
   112
   Other labs: PT / PTT / INR:15.5/43.5/1.4, Lactic Acid:0.9 mmol/L,
   Ca++:9.8 mg/dL, Mg++:2.4 mg/dL, PO4:4.2 mg/dL
   Fluid analysis / Other labs: [**2175-4-21**] beta-glucan / galactomannan pending
   Assessment and Plan
 RESPIRATORY FAILURE, CHRONIC
   # Hypercarbic resp failure: This is most likely in setting of narcotics
   and decreased respiratory drive. He has received 0.4 X 3 IV narcan with
   improvement of sedation. Overnight, his mental status has improved to
   baseline; however, he is still retaining CO2. Alternating with refusing
   and trying BiPAP. After discussion with patient this AM, he would not
   wish to be CMO and is willing to try bipap if absolutely necessary.
   - follow mental status, if decreased and on ABG PaCO2>60 will try BiPAP
   - try a little bit of haldol for anxiety and intolerant of BiPAP
   - avoid opiates
   - await discussion with Dr. [**Last Name (STitle) 712**]
   # Hypoxic respiratory failure: Oxygen requirement stable at 5 L 95%.
   Secondary to possible pulmonary fungal infection, health care acquired
   and aspiration pneumonia. Patient has been afebrile and hemodynamically
   stable.   Repeat Beta-glucan and galactomannan pending.
   - Completed course of Meropenem 500 IV Q HD for health care acquired
   pneumonia
   - Today is Micafungin day 10 for fungal coverage, will need several
   months of coverage
   - f/u beta-glucan and galactomannan
   - continue fluid removal with HD
   - repeat sputum cytology, quantify Eos
   - appreciate ID input
   # Malnutrition: Pt cachetic on examination and has been made NPO due to
   severe aspiration. Started testosterone secondary to low level.
   - continue TPN via tunnelled line
   - holding tube feeds for ? Bipap
   - appreciate nutrition recs
   #. ESRD on HD: Pt currently anuric, undergoes HD MWF.
   - appreciate renal recs
   # Toe ulcer: Erythematous with no evidence of cellulitis. Meropenem
   provides adequate coverage, blood cultures have currently been negative
   since.
   - Continue to monitor skin
   # Crohns disease: Pt is s/p bowel resections and has short gut.
   - replete lytes
   - will keep head of bed elevation for severe reflux
   - not currently on immune suppressants
   # Anemia: baseline Hct 26-32, current Hct 28. Secondary to anemia of
   chronic disease.
   #. Hypothyroidism: Will continue pt on IV levothyroxine given NPO
   status.
   FEN: replete lytes prn
   PPX: SQ heparin, PPI, fall/aspiration precautions, bowel regimen prn
   ACCESS: tunneled hickman for abx and TPN, Dobhoff
   CODE STATUS: DNR/DNI  -- family meeting today
   EMERGENCY CONTACT: [**First Name8 (NamePattern2) **] [**Known lastname 6029**] [**Telephone/Fax (1) 6030**] cell
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2175-4-23**] 08:30 PM 83.[**Telephone/Fax (5) 2407**] mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Tunneled (Hickman) Line - [**2175-4-20**] 08:45 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2175-04-24 10:34:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note, including assessment and plan as detailed in my note below.
   Chief Complaint: hypercapnea.
   HPI: 68 y/o M hx Crohns dz with esophageal involvement, numerous bowel
   resections and short gut syndrome with severe pulmonary disease
   including chronic aspiration leading to bronchiectasis, hx necrotizing
   pneumonia.
   Initially presented to the MICU with severe malnutrition, bilateral
   pulmonary infltrates and worsening hypoxia.  Treated for HAP and got
   empiric micafungin,. but suspicion was there was a more chronic process
   such as boop, malignancy, chronic aspiration or atypical infection.
   Sputum  returned with rare very atypical squamous cells concerning for
   squamous cell CA and with Eos.
   He went to the floor but returned to the MICU [**4-20**] after receiving
   fentanyl during IR for a line placement  Transferred back to ICU for
   BiPAP.  His MICU stay has been repeat bouts of hypercapnea requiring
   BIPAP
   24 Hour Events:
   Lost dialysis accsess it clotted.
   Allergies:
   Dicloxacillin
   Rash;
   Mercaptopurine
   Neutropenia; Th
   Last dose of Antibiotics:
   Meropenem - [**2175-4-23**] 02:06 PM
   Micafungin - [**2175-4-23**] 10:58 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2175-4-24**] 08:30 AM
   Other medications:
   [**First Name9 (NamePattern2) 6271**]
   [**Last Name (un) 6272**] nebs
   hep 5K tid
   micafungin 100 qday
   testosterone patch
   NACL
   mertazapine 30mg po qhs
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2175-4-24**] 10:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 86 (77 - 94) bpm
   BP: 102/39(54) {102/38(54) - 133/65(81)} mmHg
   RR: 30 (20 - 35) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,649 mL
                                                                    985 mL
   PO:
             TF:
   IVF:
                                                                    355 mL
                                                                    105 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,649 mL
                                                                    985 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 99%
   ABG: ///29/
   Physical Examination
   GEN:  Cachetic
   CV: Regular S1 S2, no m/r/g
   LUNGS: Decreased BS L base to [**12-17**] left lung, with scattered rales.
    ABD: Soft, NT
   EXT: No edema
   Skin:  warm and dry
   Labs / Radiology: worsening bilateral infiltrates
   9.4 g/dL
   212 K/uL
   112 mg/dL
   5.0 mg/dL
   29 mEq/L
   3.8 mEq/L
   49 mg/dL
   107 mEq/L
   143 mEq/L
   30.9 %
   5.1 K/uL
        [image002.jpg]
   No new micro
                             [**2175-4-20**]  11:13 PM
                             [**2175-4-21**]  01:19 AM
                             [**2175-4-21**]  02:51 AM
                             [**2175-4-21**]  04:28 AM
                             [**2175-4-21**]  05:08 PM
                             [**2175-4-22**]  04:22 AM
                             [**2175-4-23**]  03:36 AM
                             [**2175-4-24**]  03:47 AM
   WBC
   5.3
   4.7
   5.1
   5.1
   Hct
   29.3
   30.9
   29.6
   30.9
   Plt
   174
   207
   181
   212
   Cr
   3.7
   4.9
   3.6
   5.0
   TCO2
   34
   36
   34
   30
   Glucose
   92
   89
   111
   112
   Other labs: PT / PTT / INR:15.5/43.5/1.4, Lactic Acid:0.9 mmol/L,
   Ca++:9.8 mg/dL, Mg++:2.4 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   68 y/o M hx Crohns dz with esophageal involvement, numerous bowel
   resections and short gut syndrome with severe pulmonary disease
   including chronic aspiration, bronchiectasis, hx necrotizing
   pneumonia,  who initially presented to the MICU with severe
   malnutrition, bilateral pulmonary infltrates and worsening hypoxia.
   Being tx for HAP but suspect a more chronic process such as boop,
   malignancy, chronic aspiration or atypical infection.  We adding
   antifungal therapy and if he does not improve and continues to worsen
   we will add emperic steroids.  Sputum  returned with rare very atypical
   squamous cells concerning for squamous cell CA and with Eos.  He went
   to the floor and was doing much better went to IR for a line placement
   and received 12.5 fent plus some percocets earlier and went into
   hypercarbic resp failure.  Transferred back to ICU for BiPaP.  Now with
   clotted AV fistula.
   Hypercarbic respiratory failure and somnolence
   -likely a consequence of fentanyl and percocets (though only fent 12.5
   mcg and 2 percs) improved
   - will continue to support with BIPAP PRN until gas improves.
   Severe malnutrition
   -receiving TPN
   -Hold TPN until dialysis line in place
   Pulmonary infiltrates-Worsened in the setting of volume overload
   suspect chronic process and underlying COPD
   -Will repeat Cytology and Sputum Eosinophils
   - meropenem completed, Micofungin, will follow Beta glucan
   -Will consider steroids if + sputum eos + and if his x-rays start to
   worsen in the setting of decreased sputum production.
   He has difficulty with sputum expectoration and this is in large part
   related to his overall strength which is marginal
   ESRD
 Active discussion for access, surgery recommends temorary access.  He
   is clotted on the right.
   Crohn's
   - no active issues beyond nutrition
   Family: Wife is  very involved.
   DISPO: DNR/DNI.  Goal is to stabilize vent stabilize ventilatory
   status.
   -Will discuss need for access and continuing therapy.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2175-4-23**] 08:30 PM 83.[**Telephone/Fax (5) 2407**] mL/hour  (hold)
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2175-4-20**] 08:45 PM
   Prophylaxis:
   DVT: Hep
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition : ICU
   Total time spent: 35 mins

2175-04-25 06:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Hypercarbic respiratory failure
   24 Hour Events:
   - Completed course of Meropenem for HCAP, continues on Micafungin
   - Hemodialysis AV graft failed
   - Decision made to place femoral HD tunnelled catheter
   - Did not have HD, will resume in AM
   - Tube feeds on hold, TPN on hold to limit In's after missing HD
   - TPN line noted to be erythematous, but no drainage or induration,
   non-tender, pt not febrile or w/ WBC
   - VBG in AM 7.19/71/65, likely combination of CO2 retention and missing
   HD; placed on BiPap given mental status
   - AM serum glucose 27, given 1amp D50 --> FS 117 w/ improvement of
   mental status
   - BiPAP for ~2 hours
   Allergies:
   Dicloxacillin
   Rash;
   Mercaptopurine
   Neutropenia; Th
   Last dose of Antibiotics:
   Meropenem - [**2175-4-23**] 02:06 PM
   Micafungin - [**2175-4-24**] 09:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2175-4-24**] 10:29 PM
   Dextrose 50% - [**2175-4-25**] 05:33 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2175-4-25**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.8
C (96.5
   HR: 106 (86 - 112) bpm
   BP: 99/52(63) {88/35(48) - 120/58(73)} mmHg
   RR: 33 (20 - 41) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
             Total In:
                                                                  1,191 mL
                                                                    117 mL
   PO:
             TF:
   IVF:
                                                                    267 mL
                                                                     67 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,191 mL
                                                                    117 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 446 (403 - 446) mL
   PS : 10 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: ///26/
   Ve: 10.8 L/min
   Physical Examination
   GEN: tired appearing, A&Ox3
   HEENT: PERRL, MM dry
   COR: RRR, no murmurs
   LUNGS: dry crackles bilaterally
   ABD: soft, NT, ND
   EXT: no edema
   Labs / Radiology
   218 K/uL
   9.1 g/dL
   27 mg/dL
   6.5 mg/dL
   26 mEq/L
   4.3 mEq/L
   62 mg/dL
   108 mEq/L
   144 mEq/L
   30.8 %
   6.3 K/uL
        [image002.jpg]
                             [**2175-4-20**]  11:13 PM
                             [**2175-4-21**]  01:19 AM
                             [**2175-4-21**]  02:51 AM
                             [**2175-4-21**]  04:28 AM
                             [**2175-4-21**]  05:08 PM
                             [**2175-4-22**]  04:22 AM
                             [**2175-4-23**]  03:36 AM
                             [**2175-4-24**]  03:47 AM
                             [**2175-4-25**]  04:35 AM
   WBC
   5.3
   4.7
   5.1
   5.1
   6.3
   Hct
   29.3
   30.9
   29.6
   30.9
   30.8
   Plt
   174
   207
   181
   212
   218
   Cr
   3.7
   4.9
   3.6
   5.0
   6.5
   TCO2
   34
   36
   34
   30
   Glucose
   92
   89
   111
   112
   27
   Other labs: PT / PTT / INR:15.4/43.8/1.4, Lactic Acid:0.9 mmol/L,
   Ca++:10.0 mg/dL, Mg++:2.6 mg/dL, PO4:5.2 mg/dL
   Fluid analysis / Other labs: [**4-24**] beta-glucan, galactomannan pending
   Assessment and Plan:
   # Altered mental status.  Likely multifactorial with hypercarbia and
   hypoglycemia the most likely etiologies.  Medication effect also
   possible with Remeron.  Also hypercalcemic after missing dialysis.
   Plan for each addressed below:
   # Hypercarbic resp failure: This is most likely in setting of narcotics
   and decreased respiratory drive. He has received 0.4 X 3 IV narcan with
   improvement of sedation. Overnight, his mental status has improved to
   baseline; however, he is still retaining CO2. Alternating with refusing
   and trying BiPAP. After discussion with patient, he would not wish to
   be CMO and is willing to try bipap if absolutely necessary. VBG today
   AM 7.19/71/65, placed on BiPAP for depressed mental status.
   - Following mental status; if decreased and on ABG PaCO2>60 will try
   BiPAP
   - PRN haldol for anxiety and intolerant of BiPAP
   - Avoiding opiates
   # Hypoglycemia: Likely iatrogenic in setting of not receiving TPN
   overnight last night. TPN was held to decrease obligate In's after
   missing HD. Now s/p D50 infusion with appropriate increase in BS.
   - Monitor FS closely
   - Start D10 gtt
   - Resume TPN today after HD then stop D10
   # Hypoxic respiratory failure: Oxygen requirement stable at 5 L 95%.
   Secondary to possible pulmonary fungal infection, health care acquired
   and aspiration pneumonia. Patient has been afebrile and hemodynamically
   stable.   Repeat Beta-glucan and galactomannan pending.  Has completed
   course of Meropenem 500 IV Q HD for health care acquired pneumonia.
   - Today is Micafungin day 10 for fungal coverage, will need several
   months of coverage
   - Check LFTs today (on Micafungin)
   - f/u beta-glucan and galactomannan
   - Repeat sputum cytology, quantify Eos
   - Appreciate ID input
   # Hypercalcemia:
   - Plan for dialysis today.
   # Clotted graft: now s/p tunnelled HD catheter placement. Missed HD
   yesterday.
   - Apprec vasc surgery, renal, and IR involvement
   - Resume HD this morning
   # Malnutrition: Pt cachetic on examination and has been made NPO due to
   severe aspiration. Started testosterone secondary to low level.
   - Resume TPN via tunnelled line today after HD
   - Holding tube feeds given intermittent use of BiPAP
   - Appreciate nutrition recs
   #. ESRD on HD: Pt currently anuric, undergoes HD MWF.
   - appreciate renal recs
   # Toe ulcer: Erythematous with no evidence of cellulitis. Meropenem
   provides adequate coverage, blood cultures have currently been negative
   since.
   - Continue to monitor skin
   # Crohns disease: Pt is s/p bowel resections and has short gut.
   - replete lytes
   - will keep head of bed elevation for severe reflux
   - not currently on immune suppressants
   # Anemia: baseline Hct 26-32, current Hct 28. Secondary to anemia of
   chronic disease.
   # Hypothyroidism: Will continue pt on IV levothyroxine given NPO
   status.
   # FEN: replete lytes prn
   # PPX: SQ heparin, PPI, fall/aspiration precautions, bowel regimen prn
   # ACCESS: tunneled hickman for abx and TPN, Dobhoff
   # CODE STATUS: DNR/DNI
   # EMERGENCY CONTACT: [**First Name8 (NamePattern2) **] [**Known lastname 6029**] [**Telephone/Fax (1) 6030**] cell
   Will continue to have daily meetings with wife/patient regarding goals
   of care.
   ICU Care
   Nutrition:
   Comments: TPN on hold, TFs on hold, strict NPO
   Glycemic Control:  Comments: Hypoglycemic today AM
   Lines:
   Tunneled (Hickman) Line - [**2175-4-20**] 08:45 PM
   Dialysis Catheter - [**2175-4-24**] 06:36 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR / DNI
   Disposition:ICU

2175-04-25 08:37:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note, including assessment and plan as detailed in my note below.
   Chief Complaint: hypercapnea.
   HPI: 68 y/o M hx Crohns dz with esophageal involvement, numerous bowel
   resections and short gut syndrome with severe pulmonary disease
   including chronic aspiration leading to bronchiectasis, hx necrotizing
   pneumonia.
   Initially presented to the MICU with severe malnutrition, bilateral
   pulmonary infltrates and worsening hypoxia.  Treated for HAP and got
   empiric micafungin,. but suspicion was there was a more chronic process
   such as boop, malignancy, chronic aspiration or atypical infection.
   Sputum  returned with rare very atypical squamous cells concerning for
   squamous cell CA and with Eos.
   He went to the floor but returned to the MICU [**4-20**] after receiving
   fentanyl during IR for a line placement  Transferred back to ICU for
   BiPAP.  His MICU stay has been repeat bouts of hypercapnea requiring
   BIPAP
   24 Hour Events:
   TPN line more erythematous
   Right femoral line placed
   More lethargic this am 7.19/71/65  placed on BiPaP serum glucose 27-117
   back down to 80
   Dialysis pending
 DIALYSIS CATHETER - START [**2175-4-24**] 06:36 PM
   Allergies:
   Dicloxacillin
   Rash;
   Mercaptopurine
   Neutropenia; Th
   Last dose of Antibiotics:
   Meropenem - [**2175-4-23**] 02:06 PM
   Micafungin - [**2175-4-24**] 09:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2175-4-24**] 10:29 PM
   Dextrose 50% - [**2175-4-25**] 05:33 AM
   Other medications:
   levothyroxine
   [**Last Name (un) 6272**] nebs
   hep 5K tid
   micafungin 100 qday
   testosterone patch
   NACL nasal spray
   mertazapine 30mg po qhs
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2175-4-25**] 08:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.8
C (96.5
   HR: 87 (86 - 112) bpm
   BP: 95/46(58) {88/35(48) - 120/61(73)} mmHg
   RR: 21 (20 - 41) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,191 mL
                                                                    136 mL
   PO:
             TF:
   IVF:
                                                                    267 mL
                                                                     86 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,191 mL
                                                                    136 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 446 (403 - 446) mL
   PS : 10 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: ///26/
   Ve: 10.8 L/min
   Physical Examination
   GEN:  Cachetic, lethargic, unable to answer question appropriately
   CV: Tachy, Regular S1 S2, no m/r/g
   LUNGS: Decreased BS L base to [**12-17**] left lung, with scattered rales.
    ABD: Soft, NT
   EXT: No edema
   Skin:  warm and dry
   Labs / Radiology: Unchanged from prior.
   9.1 g/dL
   218 K/uL
   27 mg/dL
   6.5 mg/dL
   26 mEq/L
   4.3 mEq/L
   62 mg/dL
   108 mEq/L
   144 mEq/L
   30.8 %
   6.3 K/uL
        [image002.jpg]
                             [**2175-4-20**]  11:13 PM
                             [**2175-4-21**]  01:19 AM
                             [**2175-4-21**]  02:51 AM
                             [**2175-4-21**]  04:28 AM
                             [**2175-4-21**]  05:08 PM
                             [**2175-4-22**]  04:22 AM
                             [**2175-4-23**]  03:36 AM
                             [**2175-4-24**]  03:47 AM
                             [**2175-4-25**]  04:35 AM
   WBC
   5.3
   4.7
   5.1
   5.1
   6.3
   Hct
   29.3
   30.9
   29.6
   30.9
   30.8
   Plt
   174
   207
   181
   212
   218
   Cr
   3.7
   4.9
   3.6
   5.0
   6.5
   TCO2
   34
   36
   34
   30
   Glucose
   92
   89
   111
   112
   27
   Other labs: PT / PTT / INR:15.4/43.8/1.4, Lactic Acid:0.9 mmol/L,
   Ca++:10.0 mg/dL, Mg++:2.6 mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
   68 y/o M hx Crohns dz with esophageal involvement, numerous bowel
   resections and short gut syndrome with severe pulmonary disease
   including chronic aspiration, bronchiectasis, hx necrotizing
   pneumonia,  who initially presented to the MICU with severe
   malnutrition, bilateral pulmonary infltrates and worsening hypoxia.
   Being tx for HAP but suspect a more chronic process such as boop,
   malignancy, chronic aspiration or atypical infection.  We adding
   antifungal therapy and if he does not improve and continues to worsen
   we will add emperic steroids.  Sputum  returned with rare very atypical
   squamous cells concerning for squamous cell CA and with Eos.  He went
   to the floor and was doing much better went to IR for a line placement
   and received 12.5 fent plus some percocets earlier and went into
   hypercarbic resp failure.  Transferred back to ICU for BiPaP.  Now with
   clotted AV fistula and is status post fem line for dialysis
   Hypercarbic respiratory failure and somnolence-suspect related to
   worsening respiratory reserve from volume overload.
   -Continue BiPaP
   -Dialysis to remove volume
   -Will call the wife to let her know he is not doing well.
   Severe malnutrition/hypoglycemia
   -Hold TPN until dialysis line in place and volume removed
   -D10 drip
   -Check LFTs
   Pulmonary infiltrates-Worsened in the setting of volume overload
   suspect chronic process and underlying COPD
   -Will repeat Cytology and Sputum Eosinophils
   - meropenem completed, Micofungin, will follow Beta glucan
   -Will consider steroids if + sputum eos + and if his x-rays start to
   worsen in the setting of decreased sputum production.
   He has difficulty with sputum expectoration and this is in large part
   related to his overall strength which is marginal
   ESRD
 Active discussion for access, surgery recommends temorary access.  He
   is clotted on the right.
   -Pending this am
   -Will discuss Ca and Phos with renal
   Crohn's
   - no active issues beyond nutrition
   Family: Wife is  very involved.
   DISPO: DNR/DNI.  Goal is to stabilize ventilatory status.
   ICU Care
   Nutrition: TPN and tube feeds on hold
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2175-4-20**] 08:45 PM
   Dialysis Catheter - [**2175-4-24**] 06:36 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition : to private room on Morphine drip if he is made CMO later
   today
   Total time spent:  35 mins
   Addendum: Discussed current clinical picture with Mrs. [**Known lastname 6029**].  He
   continues to decline, now hypotensive and hypothermic.  She wishes to
   make him comfort measures only at this time and withdraw aggressive
   therapy.

2175-04-26 07:09:00 Physician Resident Progress Note
Chief Complaint: hypercarbic respiratory failure
   24 Hour Events:
   - after discussion w/ wife, made [**Name (NI) 115**]
   Pt nonverbal today.
   Patient unable to provide history: Encephalopathy
   Allergies:
   Dicloxacillin
   Rash;
   Mercaptopurine
   Neutropenia; Th
   Last dose of Antibiotics:
   Micafungin - [**2175-4-24**] 09:00 PM
   Meropenem - [**2175-4-25**] 12:15 PM
   Vancomycin - [**2175-4-25**] 01:00 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2175-4-26**] 02:25 AM
   Lorazepam (Ativan) - [**2175-4-26**] 05:16 AM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: Unable to answer
   Flowsheet Data as of  [**2175-4-26**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.3
C (97.4
   HR: 79 (75 - 95) bpm
   BP: 91/48(59) {76/35(48) - 114/57(71)} mmHg
   RR: 22 (18 - 33) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,261 mL
                                                                     71 mL
   PO:
             TF:
   IVF:
                                                                  1,211 mL
                                                                     71 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,261 mL
                                                                     71 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 92%
   ABG: ////
   Physical Examination
   Cachectic man lying in bed
   Regular S1 S2 no m/r/g
   Lungs with diminished breath sounds on L on anterior exam, few
   inspiratory squeeks
   Abd scaphoid, nontender
   Extrem Warm palpable distal pulses
   PEARL, Not arousable to verbal stimuli, not following commands
   R groin HD cath
   Labs / Radiology
   218 K/uL
   9.1 g/dL
   27 mg/dL
   6.5 mg/dL
   26 mEq/L
   4.3 mEq/L
   62 mg/dL
   108 mEq/L
   144 mEq/L
   30.8 %
   6.3 K/uL
        [image002.jpg]
                             [**2175-4-20**]  11:13 PM
                             [**2175-4-21**]  01:19 AM
                             [**2175-4-21**]  02:51 AM
                             [**2175-4-21**]  04:28 AM
                             [**2175-4-21**]  05:08 PM
                             [**2175-4-22**]  04:22 AM
                             [**2175-4-23**]  03:36 AM
                             [**2175-4-24**]  03:47 AM
                             [**2175-4-25**]  04:35 AM
   WBC
   5.3
   4.7
   5.1
   5.1
   6.3
   Hct
   29.3
   30.9
   29.6
   30.9
   30.8
   Plt
   174
   207
   181
   212
   218
   Cr
   3.7
   4.9
   3.6
   5.0
   6.5
   TCO2
   34
   36
   34
   30
   Glucose
   92
   89
   111
   112
   27
   Other labs: PT / PTT / INR:15.4/43.8/1.4, ALT / AST:[**4-2**], Alk Phos / T
   Bili:257/0.5, Lactic Acid:0.6 mmol/L, Ca++:10.0 mg/dL, Mg++:2.6 mg/dL,
   PO4:5.2 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 6029**] is a 68M with severe Crohn
s disease and a chronic
   necrotizing pneumonia who was admitted with malnutrition and
   transferred to the MICU for worsening hypoxia.
 COMFORT CARE ([**Known lastname 115**], COMFORT MEASURES)
   Does not appear to be in pain currently.
   Continue ativan and morphine for comfort.
   Scopolamine patch applied.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2175-4-20**] 08:45 PM
   Dialysis Catheter - [**2175-4-24**] 06:36 PM
   Prophylaxis:
   DVT: n/a
   Stress ulcer: n/a
   VAP:  n/a
   Communication: Patient discussed on interdisciplinary rounds
   Code status: Comfort measures only
   Disposition: Called out to floor
   ------ Protected Section ------
   ICU fellow discussed possible autopsy with wife and she declined.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1788**] [**Last Name (NamePattern1) 6336**], MD
   on:[**2175-4-26**] 12:14 ------

2175-04-26 07:58:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note, including assessment and plan as detailed in my note below.
   Chief Complaint: hypercapnea.
   HPI: 68 y/o M hx Crohns dz with esophageal involvement, numerous bowel
   resections and short gut syndrome with severe pulmonary disease
   including chronic aspiration leading to bronchiectasis, hx necrotizing
   pneumonia.
   24 Hour Events:
   Transitioned to CMO
   Pain controlled no distress
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   prn ativan 0.5-1 ativan
   morphine 2-4mg Q2hr
   scopolamine patch
   received 2 doses of morphine overnight.
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   P 87 79/41  sat 91%
   Respiratory support
   Physical Examination
   GEN:  Cachetic, lethargic and conformtable no acute resiratory distress
   Labs / Radiology
        [image002.jpg]
   WBC
   Hct
   Plt
   Cr
   TropT
   TCO2
   Glucose
   Imaging:
   Microbiology:
   ECG:
   Assessment and Plan
   68 y/o M hx Crohns dz with esophageal involvement, numerous bowel
   resections and short gut syndrome with severe pulmonary disease
   including chronic aspiration leading to bronchiectasis, hx necrotizing
   pneumonia transitioned to CMO.
   -Continue ativan/morphine scopolamine
   -In for private floor bed.
   -Will provide support to family.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Communication:  Comments:
   Code status: DNR/ DNI, now CMO
   Disposition : floor on morphine drip
   Total time spent: 15 mins

2175-04-27 06:47:00 Physician Resident Progress Note
Chief Complaint: Comfortable this morning.
   24 Hour Events:
   - Called out to floor.  ICU fellow discussed possible autopsy with wife
   who declined.
   - Family hired a personal care attendant to be with patient
   Allergies:
   Dicloxacillin
   Rash;
   Mercaptopurine
   Neutropenia; Th
   Last dose of Antibiotics:
   Micafungin - [**2175-4-24**] 09:00 PM
   Meropenem - [**2175-4-25**] 12:15 PM
   Vancomycin - [**2175-4-25**] 01:00 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2175-4-26**] 09:12 PM
   Lorazepam (Ativan) - [**2175-4-26**] 09:13 PM
   Other medications:
   Changes to medical and family history:
   Review of systems:  Review of systems is unchanged from admission
   except as noted below
   Flowsheet Data as of  [**2175-4-27**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   HR: 110 (85 - 111) bpm
   BP: 95/55(64) {59/33(39) - 113/57(72)} mmHg
   RR: 31 (25 - 39) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
             Total In:
                                                                    240 mL
                                                                     67 mL
   PO:
             TF:
   IVF:
                                                                    240 mL
                                                                     67 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    240 mL
                                                                     67 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 92%
   ABG: ////
   Physical Examination
   Comfortable, lying in bed with face tent on.
   Labs / Radiology
   218 K/uL
   9.1 g/dL
   27 mg/dL
   6.5 mg/dL
   26 mEq/L
   4.3 mEq/L
   62 mg/dL
   108 mEq/L
   144 mEq/L
   30.8 %
   6.3 K/uL
        [image002.jpg]
                             [**2175-4-20**]  11:13 PM
                             [**2175-4-21**]  01:19 AM
                             [**2175-4-21**]  02:51 AM
                             [**2175-4-21**]  04:28 AM
                             [**2175-4-21**]  05:08 PM
                             [**2175-4-22**]  04:22 AM
                             [**2175-4-23**]  03:36 AM
                             [**2175-4-24**]  03:47 AM
                             [**2175-4-25**]  04:35 AM
   WBC
   5.3
   4.7
   5.1
   5.1
   6.3
   Hct
   29.3
   30.9
   29.6
   30.9
   30.8
   Plt
   174
   207
   181
   212
   218
   Cr
   3.7
   4.9
   3.6
   5.0
   6.5
   TCO2
   34
   36
   34
   30
   Glucose
   92
   89
   111
   112
   27
   Other labs: PT / PTT / INR:15.4/43.8/1.4, ALT / AST:[**4-2**], Alk Phos / T
   Bili:257/0.5, Lactic Acid:0.6 mmol/L, Ca++:10.0 mg/dL, Mg++:2.6 mg/dL,
   PO4:5.2 mg/dL
   Assessment and Plan:  68M with severe Crohn
s disease and a chronic
   necrotizing pneumonia who was admitted with malnutrition and
   transferred to the MICU for worsening hypoxia now comfort measures.
 COMFORT CARE (CMO, COMFORT MEASURES)
   Does not appear to be in pain currently.
   Continue ativan and morphine for comfort.
   Scopolamine patch applied.
   ICU Care
   Tunneled (Hickman) Line - [**2175-4-20**] 08:45 PM
   Dialysis Catheter - [**2175-4-24**] 06:36 PM
   Prophylaxis:
   DVT: n/a
   Stress ulcer: n/a
   VAP:  n/a
   Communication: Patient discussed on interdisciplinary rounds
   Code status: Comfort measures only
   Disposition: Called out to floor

2175-04-27 08:04:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note, including assessment and plan as detailed in my note below.
   Chief Complaint: hypercapnea.
   HPI: 68 y/o M hx Crohns dz with esophageal involvement, numerous bowel
   resections and short gut syndrome with severe pulmonary disease
   including chronic aspiration leading to bronchiectasis, hx necrotizing
   pneumonia.
   24 Hour Events:
   getting approximatly 1mg morphine per hour.
 CALLED OUT
   Allergies:
   Dicloxacillin
   Rash;
   Mercaptopurine
   Neutropenia; Th
   Last dose of Antibiotics:
   Micafungin - [**2175-4-24**] 09:00 PM
   Meropenem - [**2175-4-25**] 12:15 PM
   Vancomycin - [**2175-4-25**] 01:00 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2175-4-26**] 09:12 PM
   Lorazepam (Ativan) - [**2175-4-26**] 09:13 PM
   Other medications:
   prn ativan 0.5-1 ativan
   morphine 2-4mg Q2hr
   scopolamine patch
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2175-4-27**] 08:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   HR: 106 (85 - 111) bpm
   BP: 66/41(47) {59/33(39) - 95/55(64)} mmHg
   RR: 33 (25 - 39) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                    240 mL
                                                                     81 mL
   PO:
             TF:
   IVF:
                                                                    240 mL
                                                                     81 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    240 mL
                                                                     81 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 89%
   ABG: ////
   Physical Examination
   GEN:  Cachetic, lethargic and conformtable no acute resiratory distress
   Labs / Radiology
   9.1 g/dL
   218 K/uL
   27 mg/dL
   6.5 mg/dL
   26 mEq/L
   4.3 mEq/L
   62 mg/dL
   108 mEq/L
   144 mEq/L
   30.8 %
   6.3 K/uL
        [image002.jpg]
                             [**2175-4-20**]  11:13 PM
                             [**2175-4-21**]  01:19 AM
                             [**2175-4-21**]  02:51 AM
                             [**2175-4-21**]  04:28 AM
                             [**2175-4-21**]  05:08 PM
                             [**2175-4-22**]  04:22 AM
                             [**2175-4-23**]  03:36 AM
                             [**2175-4-24**]  03:47 AM
                             [**2175-4-25**]  04:35 AM
   WBC
   5.3
   4.7
   5.1
   5.1
   6.3
   Hct
   29.3
   30.9
   29.6
   30.9
   30.8
   Plt
   174
   207
   181
   212
   218
   Cr
   3.7
   4.9
   3.6
   5.0
   6.5
   TCO2
   34
   36
   34
   30
   Glucose
   92
   89
   111
   112
   27
   Other labs: PT / PTT / INR:15.4/43.8/1.4, ALT / AST:[**4-2**], Alk Phos / T
   Bili:257/0.5, Lactic Acid:0.6 mmol/L, Ca++:10.0 mg/dL, Mg++:2.6 mg/dL,
   PO4:5.2 mg/dL
   Assessment and Plan
   68 y/o M hx Crohns dz with esophageal involvement, numerous bowel
   resections and short gut syndrome with severe pulmonary disease
   including chronic aspiration leading to bronchiectasis, hx necrotizing
   pneumonia transitioned to CMO.
   -Continue ativan/morphine scopolamine and will add drip 0.5mg/hr
   -In for private floor bed.
   -Will provide support to family.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2175-4-20**] 08:45 PM
   Dialysis Catheter - [**2175-4-24**] 06:36 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :
   Total time spent: